US08211908B2
To a solution of 4.6 g of (5-methoxy-4-oxo-1,4-dihydropyridin-2-yl)methyl acetate in 120 mL of dichloromethane, 6.5 mL of triethylamine was added, 5.9 mL of trifluoromethanesulfonic anhydride was dropped under cooling with ice, and the mixture was stirred at the same temperature for 3 hours. Water and the chloroform were added to the reaction mixture, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by flash silica gel column chromatography using gradient elution with hexane:ethyl acetate=4:1 to 4:6 to obtain 5.2 g of (5-methoxy-4-(((trifluoromethyl)sulfonyl)oxy)pyridin-2-yl)methyl acetate as a yellow solid.

reactant | (5-methoxy-4-oxo-1,4-dihydropyridin-2-yl)methyl acetate | 4.6 g | C(C)(=O)OCC=1NC=C(C(C1)=O)OC | C9H11NO4
reactant | trifluoromethanesulfonic anhydride | 5.9 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Water | O | H2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
solvent | triethylamine | 6.5 mL | C(C)N(CC)CC | C6H15N
product | (5-methoxy-4-(((trifluoromethyl)sulfonyl)oxy)pyridin-2-yl)methyl acetate | 5.2 g | C(C)(=O)OCC1=NC=C(C(=C1)OS(=O)(=O)C(F)(F)F)OC | C10H10F3NO6S
